US05334576
Preparation of 5-formyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 -yl)nicotinic acid, methyl ester
A stirred solution of 1.38 g of 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(dibromomethyl)nicotinic acid, methyl ester, in 35 mL tetrahydrofuran is cooled to -78° and treated with a mixture of 0.3 mL of N-ethylethylenediamine, 10 mL tetrahydrofuran, and 0.8 mL of triethylamine. After warming to room temperature, the reaction solution is treated with 0.3 mL of N-ethylethylenediamine, stirred for 2 hours, heated at reflux for 24 hours, and concentrated in vacuo. The residue is partitioned between methylene chloride and water; the aqueous phase is further extracted with methylene chloride, and the combined organic phases are dried and concentrated in vacuo. Chromatography of the residue on silica gel using hexane-ethyl acetate mixtures affords the desired product, mp 113°-117°.

reactant | 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(dibromomethyl)nicotinic acid, methyl ester | 1.38 g | C(C1=CC=CC=C1)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=C(C=N1)C(Br)Br | C22H21Br2N3O4
reactant | N-ethylethylenediamine | 0.3 mL | C(C)NCCN | C4H12N2
reactant | triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | N-ethylethylenediamine | 0.3 mL | C(C)NCCN | C4H12N2
reactant | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-formyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 -yl)nicotinic acid, methyl ester | C(=O)C=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C15H17N3O4
